US09376441B2
Into the solution of 6-bromoindoline-2,3-dione (3.3 g) in Toluene (90 mL), was added Ethylene Glycol (9 g) and p-TsOH (555 mg). The reaction was heated to reflux and water was removed. After completion of the reaction, Toluene was removed, the residue was purified by silica gel column chromatography to provide 3.38 g of 6′-bromospiro[[1,3]dioxolane-2,3′-indolin]-2′-one. 1H NMR (400 MHz, Chloroform-d) δ 7.59 (br., 1H), 7.21 (d, J=1.1 Hz, 2H), 7.00 (s, 1H), 4.60-4.51 (m, 2H), 4.35-4.27 (m, 2H).

reactant | 6-bromoindoline-2,3-dione | 3.3 g | BrC1=CC=C2C(C(NC2=C1)=O)=O | C8H4BrNO2
reactant | Ethylene Glycol | 9 g | C(CO)O | C2H6O2
reactant | p-TsOH | 555 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | Toluene | 90 mL | C1(=CC=CC=C1)C | C7H8
product | 6′-bromospiro[[1,3]dioxolane-2,3′-indolin]-2′-one | 3.38 g | BrC1=CC=C2C3(C(NC2=C1)=O)OCCO3 | C10H8BrNO3
